US07820665B2
Step B. N-(6-chloropyridazin-3-yl)-4-methylbenzenesulfonamide
6-Chloro-pyridazin-3-ylamine (7 g, 54 mmol) was taken up in pyridine (54 mL) and TsCl (11.34 g, 59 mmol) was added. The solution was heated at 80-90° C. for 24 h. The solution was concentrated and the residue was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine (2×50 mL), dried over sodium sulfate and concentrated. Purification by silica gel chromatography (ethyl acetate/hexane) afforded the title compound (4 g, 26%). 1H NMR (DMSO-d6, 300 MHz): δ 2.4 (s, 3H), 7.4 (d, 3H), 7.54 (d, 1H), 7.8 (m, 3H), 12.5 (br, 1H)

reactant | 6-Chloro-pyridazin-3-ylamine | 54 mmol, 7 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | TsCl | 59 mmol, 11.34 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 54 mL | N1=CC=CC=C1 | C5H5N
product | N-(6-chloropyridazin-3-yl)-4-methylbenzenesulfonamide | 4 g, 26% | ClC1=CC=C(N=N1)NS(=O)(=O)C1=CC=C(C=C1)C | C11H10ClN3O2S
